US04032652
To a boiling solution of 2.67 g. (0.0123 m.) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in 50 ml. of methanol is added 1.8 g. (0.0132 m.) of p-aminoformanilide. Additional methanol is added (30 ml.) and reflux is continued for 40 minutes. The reaction mixture is filtered and the solid recrystallized to yield 5-acetyl-3-[1-(p-formamidophenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6 (3H)-dione, m.p. 247°-248° C. (dec.).

reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
reactant | p-aminoformanilide | NC1=CC=C(NC=O)C=C1 | C7H8N2O
solvent | methanol | CO | CH4O
product | 5-acetyl-3-[1-(p-formamidophenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6 (3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC=C(C=C1)NC=O)O | C16H14N2O6
